Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
fever, malaise, rash, headache
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M w/ PMHx of hypothyroidism who p/w 7 days of fever, 
rigors, and malaise with new rash. Last ___, he awoke from 
sleep with rigors and sweats. He went to work ___ morning but 
was feeling unwell. He continued to have persistent rigors and 
sweats at night requiring change of clothing up to six times per 
night. He also developed a rash on his left leg. It started as 
little bumps but has since progressed into one big, red area. It 
is not painful or pruritic. There was no trauma there. Patches 
then began to spread over his trunk in multiple areas. They are 
non-pruritic and non-painful. He started taking his temperature 
on ___ and was getting readins as high as 104. The last 
temperature that he had >100.4 was 102 on ___. No fevers on 
___ but continues to have night sweats and rigors.  
Also during this time, he has had poor PO intake. He has had a 
left sided headache for the past week as well. It is 
pressure-like, dull and achey and improved with ibuprofen. It 
has been on/off for approx 1 week. He has not noticed any vision 
change, rhinorrhea, otorrhea. He is a very outdoorsy person and 
likes to mountain bike. He does not recall any tick bites but 
states there are flies at the beach that he gets bit by. He 
denies any recent foreign travel. He has never been 
incarcerated. He does not have a cough. He has not had any 
weight loss. He recently served on jury duty for four weeks. He 
last had a colonoscopy in ___ which showed polyps in the 
sigmoid colon and rectum and internal hemorrhoids. He denies any 
urinary symptoms - no increased frequency or dysuria, no urinary 
hesitation or weak stream. No history of blood transfusions, 
does not use IVDU, no MSM. He has no joint pains or myalgias. He 
had a dental cleaning about ___ months ago but denies a history 
of cardiac valve problems. No confusion or change in mental 
status.  
He was seen in the ED on ___ with c/o fever and malaise. He 
was febrile to 104. He had a negative infectious work-up with 
negative blood and urine culture on ___. WBC was 4.5 without 
bandemia, ALT/AST 42/51, LDH 272. He went to his PCP ___ ___ 
with the same unrelenting fevers, night sweats, generalized 
malaise and a new rash on his left leg. It was descirbed as 
erythematous on the back of his left knee, 10 x 8 cm, slightly 
raised with scalloped borders, non-painful and non-pruritic. 
Basic labwork revealed CRP elevation to 110.6, ESR elevation to 
20, WBC was 4.5 with 20% bands, LDH had risen to 327. EBV 
serologies were sent.  
In the ED initial vitals were: 99.6 67 107/67 16 96% RA.  
- Labs were significant for lactate 1.3, normal metabolic panel, 
WBC 8.3 with no left shift, H&H 13.5/40.6, plts 255.  
- Patient was given 1gm vancomycin, 180mg gentamicin, and 100mg 
doxycycline.  
Vitals prior to transfer were: 99.1 79 122/67 16 98%RA.  
On the floor, Mr. ___ is concerned about what could be causing 
fevers.  
Review of Systems:  
(+) per HPI  
(-) chills, vision changes, rhinorrhea, congestion, sore throat, 
cough, shortness of breath, chest pain, abdominal pain, nausea, 
vomiting, diarrhea, constipation, BRBPR, melena, hematochezia, 
dysuria, hematuria.  

 
Past Medical History:
hypothyroidism  
plantar fascitis  
vasovagal syncope  

 
Social History:
___
Family History:
- father - colon cancer in early ___  
- mother - MI @ ___  
- no fam hx of AI disease  

 
Physical Exam:
Admission Physical Exam:

Vitals - T: 99.0 BP: 126/62 HR: 64 RR: 18 02 sat: 99% RA  
GENERAL: NAD, A+Ox3  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
patent nares, MMM, good dentition, oral mucosa without any 
lesions, no cervical or supraclavicular LAD  
NECK: supple neck with full range of motion , no LAD, no JVD  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing or edema, no ___ lesions 
___ spots, no splinter hemorrhages  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, ___ erythematous patches over 
back largest 5cm x 5cm, large LLE erythematous patch - all NTTP 
and nonblanching, no patches on palms/soles, all slightly raised 


Discharge physical exam:

Vitals: T:98.3 (98.6) BP: 114/66 (100-114/60-65) HR:60 RR:16
General: NAD, AOx3
HEENT:PERRLA
Neck: no LAD, no neck stiffness
Lungs:CTAB, no rhonchi, rhales, or wheezes
CV: RRR, S1S2 present, no murmurs, rubs, or gallops
Abdomen: +BS, non-tender, non-distended
Ext: brisk capillary refill
Neuro: CNII-XII intact, symmetric facial expressions, intact 
mental status
Skin: ___ erythematous patches over back largest now 4cm x 4cm, 
large LLE erythematous patch - all NTTP and nonblanching, no 
patches on palms/soles, all slightly raised, all reducing in 
size and less erythema compared to yesterday and admission exam

 
Pertinent Results:
___ 07:09AM BLOOD WBC-7.6 RBC-4.16* Hgb-13.4* Hct-39.7* 
MCV-95 MCH-32.1* MCHC-33.7 RDW-12.3 Plt ___
___ 06:48AM BLOOD WBC-9.3 RBC-3.92* Hgb-12.5* Hct-37.5* 
MCV-96 MCH-32.0 MCHC-33.4 RDW-12.5 Plt ___
___ 04:29PM BLOOD WBC-8.3# RBC-4.22* Hgb-13.5* Hct-40.6 
MCV-96 MCH-31.9 MCHC-33.2 RDW-12.4 Plt ___
___ 04:29PM BLOOD Neuts-66.9 ___ Monos-4.9 Eos-1.1 
Baso-1.3
___ 04:29PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-OCCASIONAL Macrocy-2+ Microcy-NORMAL Polychr-NORMAL 
Ovalocy-OCCASIONAL Tear Dr-OCCASIONAL
___ 06:48AM BLOOD ___ PTT-29.2 ___
___ 06:48AM BLOOD Parst S-NEGATIVE
___ 04:29PM BLOOD ESR-47*
___ 07:09AM BLOOD Glucose-84 UreaN-12 Creat-0.9 Na-140 
K-4.2 Cl-105 HCO3-27 AnGap-12
___ 06:48AM BLOOD UreaN-10 Creat-0.9 Na-140 K-4.0 Cl-106 
HCO3-26 AnGap-12
___ 04:29PM BLOOD Glucose-98 UreaN-12 Creat-1.0 Na-139 
K-4.3 Cl-105 HCO3-25 AnGap-13
___ 07:09AM BLOOD LD(LDH)-276*
___ 06:48AM BLOOD LD(LDH)-292* TotBili-0.5
___ 04:29PM BLOOD ALT-33 AST-32 LD(LDH)-315* CK(CPK)-64 
AlkPhos-111 TotBili-0.4
___ 07:09AM BLOOD Calcium-9.3 Phos-3.4 Mg-2.3
___ 06:48AM BLOOD Calcium-8.9 Phos-2.8 Mg-2.1
___ 04:29PM BLOOD Albumin-3.5

___ 01:00AM BLOOD ___ * Titer-1:160  PAT
___ 04:29PM BLOOD RheuFac-17* CRP-101.6*
___ 06:48AM BLOOD HIV Ab-NEGATIVE
___ 06:02AM URINE Color-Yellow Appear-Clear Sp ___
___ 06:02AM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 06:02AM URINE RBC-1 WBC-3 Bacteri-FEW Yeast-NONE Epi-0

MICROBIOLOGY:
___: RPR- NEGATIVE
___ BCx X 1: NGTD(No growth to date), final read pending
___ BCx X2: NGTD, final read pending
___ 
___ 4:45 pm SEROLOGY/BLOOD(Results became available after 
patient's discharge)      
   LYME SEROLOGY (Final ___: 
      POSITIVE BY EIA. 
      CONFIRMED AS POSITIVE BY WESTERN BLOT. 
      Refer to outside lab system for complete Western Blot 
results. 
___ 04:45PM BLOOD ANAPLASMA PHAGOCYTOPHILUM (HUMAN 
GRANULOCYTIC EHRLICHIA AGENT) IGG/IGM- negative(Results became 
available after patient's discharge)      

 
Brief Hospital Course:
Active:

# Early Disseminated Lyme Disease:

Patient admitted with a week of fevers upto 102, chills, night 
sweats, malaise, intermittent headache, and progression of rash 
from a single 4cmX4cm circular erythematous, non-blanching one 
to multiple disseminated erythematous rashes. With the history 
of transient transaminitis a few days prior to admission and 
outdoor exposure with patient living in ___ and traveling in 
___, the sign and sympmtoms were clinically believed to 
be consistent with an early disseminated lyme disease(confirmed 
by lyme serology positive result avaialble after discharge). 
Patient was started on doxycycline. No signs/symptoms of 
carditits or meningitis. Given mild anemia during 
hospitalization and hi-coinfection rates, there was initial 
concern for babesia and anaplasma co-infection. Anemia was 
non-hemolytic, making babesia less likely. Babesia smear was 
also negative. Anaplasma IgM/IgG test sent on admission was 
negative(result available after discharge). Started on 
doxycycline with improvement of symptoms. Discharged on 3 week 
course of doxycycline(day ___, day ___, per infectious 
disease recommendations.

Chronic:

# Hypothyroidism: clinically stable, on levothyroxine

=====================================
Transitional Issues
=====================================
- Patient discharged on three week total course of 
doxycycline(day ___, day ___.
- Please follow up blood culture from ___ and ___, pending on 
discharge

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 50 mcg PO DAILY 

 
Discharge Medications:
1. Levothyroxine Sodium 50 mcg PO DAILY 
2. Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth twice a day 
Disp #*42 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Early Disseminated Lyme Infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
   It was a pleasure meeting you at ___ 
___. You were admitted with signs and symptoms 
consistent with an early disseminated Lyme infection. You were 
started on antibiotics and you improved. You were discharged on 
the same antibiotics. Please take medications as prescribed and 
attend your follow up appointments as listed below.

Sincerely,
Your ___ medical team
 
Followup Instructions:
___